US05382585
6-Methyl-[1,2,5]oxadiazolo[3,4-d]pyrimidine-7(6H)-one-1-oxide
A solution of 3.0 g (20 mmol) of 7-hydroxy-[1,2,5]oxadiazolo[3,4-d]pyrimidine-1-oxide (C. Temple, C. L. Kussner, J. A. Montgomery, J. Org. Chem. 33 (1968) 2086) in 30 ml of THF is added dropwise to a suspension of 0.18 g (22.5 mmol) of lithium hydride in 20 ml of THF. The mixture is heated at 40° C. for 30 minutes, then 11.5 g (80 mmol) of methyl iodide in 10 ml of THF are added dropwise at room temperature and it is allowed to stand for 2 days. The mixture is diluted with 300 ml of ethyl acetate, washed three times with water, dried over magnesium sulphate and concentrated in vacuo. After recrystallisation from isopropanol, 1.9 g (57%) of 6-methyl-[1,2,5]oxadiazolo[3,4-d]pyrimidine-7(6H)-one-1-oxide are obtained.

reactant | 7-hydroxy-[1,2,5]oxadiazolo[3,4-d]pyrimidine-1-oxide | 20 mmol, 3.0 g | OC=1C=2C(N=CN1)=NO[N+]2[O-] | C4H2N4O3
reactant | lithium hydride | 22.5 mmol, 0.18 g | [H-].[Li+]
reactant | methyl iodide | 80 mmol, 11.5 g | CI | CH3I
solvent | THF | 30 ml | C1CCOC1 | C4H8O
solvent | THF | 20 ml | C1CCOC1 | C4H8O
solvent | THF | 10 ml | C1CCOC1 | C4H8O
solvent | ethyl acetate | 300 ml | C(C)(=O)OCC | C4H8O2
product | 6-Methyl-[1,2,5]oxadiazolo[3,4-d]pyrimidine-7(6H)-one-1-oxide | CN1C=NC=2C(C1=O)=[N+](ON2)[O-] | C5H4N4O3
